US06180627B2
2-[3-chloro-5-({[(2R)-1-(cyclopropylmethyl)piperidinyl]methyl}amino)-2-methyl-6-oxo-1(6H)-pyrazinyl]acetic acid
The title compound was prepared by a similar method to preparation 44 from benzyl 2-[3-chloro-5-({[(2R)-1-(cyclopropylmethyl)piperidinyl]methyl}amino)-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate [see preparation 71] and palladium hydroxide. To afford the product as a yellow foam, (100%).

reactant | benzyl 2-[3-chloro-5-({[(2R)-1-(cyclopropylmethyl)piperidinyl]methyl}amino)-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate | ClC1=C(N(C(C(=N1)NC[C@@H]1N(CCCC1)CC1CC1)=O)CC(=O)OCC1=CC=CC=C1)C | C24H31ClN4O3
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | 2-[3-chloro-5-({[(2R)-1-(cyclopropylmethyl)piperidinyl]methyl}amino)-2-methyl-6-oxo-1(6H)-pyrazinyl]acetic acid | ClC1=C(N(C(C(=N1)NC[C@@H]1N(CCCC1)CC1CC1)=O)CC(=O)O)C | C17H25ClN4O3
